US06166219
A solution of 2.66 g of 1-(2-chlorobenzyl)-6-ethoxycarbonyl-2-methylbenzimidazole in 20 ml of tetrahydrofuran was slowly added to a solution of 1.54 g of lithium aluminum hydride in 20 ml of tetrahydrofuran at a temperature of from 20 to 25° C. Further, the mixture was stirred at room temperature for 1 hour. Thirty milliliters of tetrahydrofuran were added thereto to dilute the reaction solution. Lithium ammonium hydride was decomposed and solidified with a saturated aqueous solution of sodium sulfate, and the tetrahydrofuran layer was separated. The solvent was distilled off, and the residue was purified through silica-gel column chromatography (eluent: a mixture of chloroform and methanol at a ratio of 9:1) to give 1.45 g of 1-(2-chlorobenzyl)-6-hydroxymethyl-2-methylbenzimidazole.

reactant | 1-(2-chlorobenzyl)-6-ethoxycarbonyl-2-methylbenzimidazole | 2.66 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC=C1 | C18H17ClN2O2
reactant | lithium aluminum hydride | 1.54 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Lithium ammonium hydride | [H-].[NH4+].[Li]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | Thirty milliliters | O1CCCC1 | C4H8O
product | 1-(2-chlorobenzyl)-6-hydroxymethyl-2-methylbenzimidazole | 1.45 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)CO)C)C=CC=C1 | C16H15ClN2O
